US06127576
A mixture of 9.3 g (5.1 mmol) of 1-(o-aminophenyl)-4-hydroxy-1-butanone, 26 mL of water and 90 mL of 37% HCl is refluxed for about 6.5 hours, cooled and filtered to afford 8.0 g of 1-(o-aminophenyl)-4-chloro-1-butanone hydrochloride. Extraction of the aqueous mother liquor with methylene chloride gives an additional 1.10 g of the title product for an overall yield of 73% (mp 142-145° C.). The product is identified by NMR and MS analyses.

reactant | 1-(o-aminophenyl)-4-hydroxy-1-butanone | 5.1 mmol, 9.3 g | NC1=C(C=CC=C1)C(CCCO)=O | C10H13NO2
reactant | HCl | 90 mL | Cl | ClH
solvent | water | 26 mL | O | H2O
product | 1-(o-aminophenyl)-4-chloro-1-butanone hydrochloride | 8.0 g, yield of 73% | Cl.NC1=C(C=CC=C1)C(CCCCl)=O | InChI=1S/C10H12ClNO.ClH/c11-7-3-6-10(13)8-4-1-2-5-9(8)12;/h1-2,4-5H,3,6-7,12H2;1H
